US05886014
Methyl 5-benzimidazolecarboxylate
A mixture of 10 g of 5-benzimidazolecarboxylic acid, 150 ml of methanol and 100 ml of a 4N solution of hydrogen chloride in 1,4-dioxane was agitated ultrasonically for 4 hours. At the end of this time, the solvent was removed by distillation under reduced pressure, after which 300 ml of methanol and 3.5 g of lithium borohydride were added to the residue and the mixture was stirred for 1 hour. The solvent was then removed by evaporation under reduced pressure and the residue was mixed with an aqueous solution of sodium chloride, after which it was extracted with ethyl acetate. The solvent was removed by distillation under reduced pressure, to give 5.44 g of the title compound, melting at 136°-138° C.

reactant | 5-benzimidazolecarboxylic acid | 10 g | N1=CNC2=C1C=CC(=C2)C(=O)O | C8H6N2O2
reactant | methanol | 150 ml | CO | CH4O
reactant | hydrogen chloride | Cl | ClH
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
product | Methyl 5-benzimidazolecarboxylate | 5.44 g | N1=CNC2=C1C=CC(=C2)C(=O)OC | C9H8N2O2
